US05453430
6.2.1. 3-methyl-1,2,3,4-tetrahydroquinolin-8-sulphonic acid
20 g (90 mmoles) of 3-methylquinoline-8-sulphonic acid is placed in a mixture of 200 ml of water and 25 ml of 12N hydrochloric acid. 6 g of 5% rhodium on charcoal catalyst is added and the reaction mixture is heated at 70° C. for 16 hours. The catalyst is filtered and washed with hot water and the filtrate is evaporated to provide a residue which is dissolved in 50 ml of ethanol. After evaporation of ethanol the residue is dried over phosphorus pentoxide at 50° C. 14 g of product is obtained.

reactant | 3-methylquinoline-8-sulphonic acid | 90 mmoles, 20 g | CC=1C=NC2=C(C=CC=C2C1)S(=O)(=O)O | C10H9NO3S
solvent | water | 200 ml | O | H2O
solvent | hydrochloric acid | 12N, 25 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | rhodium | 6 g | [Rh] | Rh
product | 3-methyl-1,2,3,4-tetrahydroquinolin-8-sulphonic acid | 14 g | CC1CNC2=C(C=CC=C2C1)S(=O)(=O)O | C10H13NO3S
